US04474793
4-Nitrobenzyl 6-ethyl-3-ethylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene 2-carboxylate
To a solution of 0.5 g of 4-nitrobenzyl 6-ethyl-7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane 2-carboxylate in 2 ml of dioxane was added, in one batch, 0.57 ml of N-ethyldiisopropylamine, then 0.10 ml of bromoethane. When the reaction was complete, the solution was evaporated in vacuo and chromatographed on silica gel, eluting with ethyl acetate/hexane mixtures to give the title product. (Yield 0.300 g)

reactant | 4-nitrobenzyl 6-ethyl-7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane 2-carboxylate | 0.5 g | C(C)C1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=S | C15H14N2O5S2
reactant | N-ethyldiisopropylamine | 0.57 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | bromoethane | 0.10 ml | BrCC | C2H5Br
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-Nitrobenzyl 6-ethyl-3-ethylthio-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene 2-carboxylate | C(C)C1C2SC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SCC | C17H18N2O5S2
